US06310056B1
To an ice-cooled solution of 493 mg of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate in 13 ml of dry acetonitrile 13 ml was added dropwise 0.619 ml of N,N-diisopropylethylamine, followed by 0.235 ml of anhydrous trifluoro-methanesulfonic acid under the atmosphere of argon. After the reaction mixture was stirred at the same temperature for 30 minutes, it was diluted with ethyl acetate, and washed with semi-saturated aqueous saline, a mixed solution of semi-saturated aqueous saline and 1 N hydrochloric acid (pH 1.1), a mixed solution of semi-saturated aqueous saline and saturated aqueous sodium hydrogen carbonate (pH 8.9), and semi-saturated aqueous saline in this sequence.-The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was removed under reduced pressure. The residue thus obtained was dissolved in 5 ml of dry N-methylpyrrolidinone, mixed with 40 mg of tri-2-furylphosphine, 384 mg of zinc chloride, 40 mg of tris(dibenzylideneacetone)dipalladium (0), and 950 mg of 3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole in 2 ml of dry N-methyl-pyrrolidinone, and the mixture was stirred under the atmosphere of argon at 50° C. for 1.5 hours. The reaction mixture was diluted with 50 ml of ethyl acetate and 50 ml of semi-saturated aqueous sodium hydrogen carbonate, the insolubles was removed by filtration, and the filtrate was washed with ethyl acetate. The organic layer of the filtrate was separated, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol=15:1) to give 303 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate | 493 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | N,N-diisopropylethylamine | 0.619 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoro-methanesulfonic acid | 0.235 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | tri-2-furylphosphine | 40 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 950 mg | C(CCC)[Sn](C=1N2C(SC1)=CN=C2)(CCCC)CCCC
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl-pyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
catalyst | zinc chloride | 384 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium | 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 303 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C21H18N4O6S
